US08912169B2
Step 1: [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid ethyl ester
A sealable reaction tube was charged with 2,8,9-Triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane (0.16 mL, 0.450 mmol) and THF (1.0 mL) under Argon. Nitromethane (0.23 mL, 4.24 mmol) was added and the reaction stirred at room temperature for 5 min then cooled to 0° C. for 15 min. [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid ethyl ester (0.261 g, 0.878 mmol) in THF (1.5 mL) was added slowly and the reaction stirred at RT for 15 min. The tube was sealed and the reaction heated at 70° C. for 17 hr. The reaction was cooled to room temperature, quenched with 0.5M HCl, and extracted with EtOAc (2×). The combined organic layers were washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated to provide 0.304 g of crude product which was carried to the next step without purification. ESI-MS m/z 359 (MH)+.

reactant | 2,8,9-Triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane | 0.450 mmol, 0.16 mL | C(C(C)C)N1P2N(CCN(CC1)CCN2CC(C)C)CC(C)C | C18H39N4P
reactant | Nitromethane | 4.24 mmol, 0.23 mL | [N+](=O)([O-])C | CH3NO2
reactant | [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid ethyl ester | 0.878 mmol, 0.261 g | C(C)OC(C=C1CCC(CC1)CNC(=O)OC(C)(C)C)=O | C16H27NO4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid ethyl ester | 0.304 g | C(C)OC(CC1(CCC(CC1)CNC(=O)OC(C)(C)C)C[N+](=O)[O-])=O | C17H30N2O6
